US05861417
Combine N,N-bis-(2-chloroethyl)benzylamine hydrochloric acid salt (72.0 g, 269 mmol) and pyrid-3-ylacetonitrile (31.8 g, 269 mmol) and hexadecyltributylphosphonium bromide (6 g) in aqueous solution of sodium hydroxide (50% by weight, 400 mL). Heat on a steam bath and stir vigorously. After 1.5 hours, cool the reaction mixture to ambient temperature. Extract the reaction mixture three times with dichloromethane. Combine the organic layers and extract twice with an aqueous 10% hydrochloric acid solution. Combine the aqueous layers and make basic with an aqueous solution of sodium hydroxide (50% by weight). Extract the basified aqueous layer three times with diethyl ether. Dry the combined ether layers over MgSO4 and filter to give a filtrate. Purge the filtrate with hydrogen chloride (gas) to give a solid. Collect the solid by filtration and dry in vacuo at 65° C. to give 1-benzyl-4-(pyrid-3-yl)-4-cyanopiperidine hydrochloric acid salt.

reactant | N,N-bis-(2-chloroethyl)benzylamine hydrochloric acid salt | 269 mmol, 72.0 g | Cl.ClCCN(CCCl)CC1=CC=CC=C1
reactant | pyrid-3-ylacetonitrile | 269 mmol, 31.8 g | N1=CC(=CC=C1)CC#N | C7H6N2
catalyst | hexadecyltributylphosphonium bromide | 6 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 400 mL | [OH-].[Na+]
product | 1-benzyl-4-(pyrid-3-yl)-4-cyanopiperidine hydrochloric acid salt | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C=1C=NC=CC1 | InChI=1S/C18H19N3.ClH/c19-15-18(17-7-4-10-20-13-17)8-11-21(12-9-18)14-16-5-2-1-3-6-16;/h1-7,10,13H,8-9,11-12,14H2;1H
